*****************************************************************
* NXP BUK7Y12-100E
*
* Polarity N-Channel
* Ratings 100V/1.200000E-002OHMS/84.6802227611607A
*
* Date Created Tue Feb 05 10:13:10 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y12-100E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 200000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00706528382566269 TC=0.00585621746982327,3.69297152293978E-05
RBD 9 4 0.000840747819271609 TC=0.00585621746982327,3.69297152293978E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.42673213251983e-09
RG 1 2 2.26327376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1988.334
+ -16	1986.524
+ -12	1984.684
+ -10	1982.444
+ -5	1953.674
+ -4	1886.094
+ -3	2882.624
+ -2	2424.974
+ -1	1925.434
+ -0.5	1585.334
+ -0.2	1356.004
+ -0.1	1290.804
+ 0	1219.99
+ 0.1	1123.166
+ 0.2	1059.132
+ 0.5	915.647
+ 1	776.808
+ 2	576.879
+ 3	478.096
+ 4	423.145
+ 5	389.259
+ 6	363.302
+ 8	322.591
+ 10	293.498
+ 12	271.072
+ 15	246.238
+ 20	217.25
+ 25	196.952
+ 30	181.528
+ 50	144.187
+ 80	106.846



.MODEL MINT NMOS(Vto=3.88184817746671 Kp=2.085552e+002 Nfs=910000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=1.69153506252061e-12
+ N=1 M=0.63 VJ=0.88 Fc=0.5 Cjo=1.311577e-09 Tt=3.6128e-08)

.ENDS

